US05120751
Step 2. N-methyl-3-amino benzophenone
Hydrochloric acid in dioxanes (4M, 7 mL) was added to a solution of N-tert-butoxycarbonyl-N-methyl-3-aminobenzophenone (2.2 g, 7.4 mmol) in methylene chloride (5 mL). The mixture was stirred at room temperature for 1 hour and then concentrated. The residue was partitioned between chloroform and saturated sodium bicarbonate solution and the organic layer was washed with saturated sodium chloride and dried over sodium sulfate. The solvent was removed in vacuo to yield the desired product.

reactant | Hydrochloric acid | Cl | ClH
reactant | N-tert-butoxycarbonyl-N-methyl-3-aminobenzophenone | 7.4 mmol, 2.2 g | C(C)(C)(C)OC(=O)N(C=1C=C(C(=O)C2=CC=CC=C2)C=CC1)C | C19H21NO3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-methyl-3-amino benzophenone | CNC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C14H13NO
